US07196085B2
A stirred mixture of the above crude 3-(4-fluoro-3nitrobenzylidene)-3H-isobenzofuran-1-one (23.5 g), industrial methylated spirit (400 ml), water (300 ml) and ammonium chloride (8.81 g, 0.165 mol) was heated to 70° C., and iron powder (46.0 g, 0.824 gatom) was added in portions. When the addition was complete, the stirred mixture was heated at 70° C. for a further 2 hours, then it was filtered while hot through Celite. The collected inorganic solids were washed with hot industrial methylated spirit (6×200 ml), then the filtrate and washings were combined and the solvent was removed in vacuo. The residue was triturated with water (300 ml) and the resulting solid was collected by filtration and dried in vacuo for 24 hours to give crude 3-(3-amino-4-fluorobenzylidene)-3H-isobenzofuran-1-one as a yellow solid, m/z (M+H)+. 256, 100% purity, which was used directly in the next stage.

reactant | 3-(4-fluoro-3nitrobenzylidene)-3H-isobenzofuran-1-one | 23.5 g | FC1=C(C=C(C=C2OC(C3=CC=CC=C23)=O)C=C1)[N+](=O)[O-] | C15H8FNO4
reactant | ammonium chloride | 0.165 mol, 8.81 g | [Cl-].[NH4+]
catalyst | iron | 46.0 g | [Fe] | Fe
solvent | water | 300 ml | O | H2O
product | 3-(3-amino-4-fluorobenzylidene)-3H-isobenzofuran-1-one | NC=1C=C(C=C2OC(C3=CC=CC=C23)=O)C=CC1F | C15H10FNO2
